US04954507
7-PIPERAZINYL-1-(1,1-DIMETHYLETHYL)-1,4-DIHYDRO-6,8-DIFLUORO-4-OXO-3-QUINOLINECARBOXYLIC ACID
0.805 g (2,04 mmoles) of 7-piperazinyl-1-(1,1 dimethylethyl)-1,4-dihydro-6,8-difluoro-4-oxo-3-quinolinecarboxylic acid ethyl ester was hydrolyzed with 1,05 mL 2N NaOH for two hours. The solution was evaporated to dryness neutralized with 5% acetic acid (pH 7.0). The solid was filtered to give 0.585 g of titled compound.

reactant | 7-piperazinyl-1-(1,1 dimethylethyl)-1,4-dihydro-6,8-difluoro-4-oxo-3-quinolinecarboxylic acid ethyl ester | 2,04 mmoles, 0.805 g | C(C)OC(=O)C1=CN(C2=C(C(=C(C=C2C1=O)F)N1CCNCC1)F)C(C)(C)C | C20H25F2N3O3
reactant | NaOH | 2N, 1,05 mL | [OH-].[Na+]
product | 7-PIPERAZINYL-1-(1,1-DIMETHYLETHYL)-1,4-DIHYDRO-6,8-DIFLUORO-4-OXO-3-QUINOLINECARBOXYLIC ACID | 0.585 g | N1(CCNCC1)C1=C(C=C2C(C(=CN(C2=C1F)C(C)(C)C)C(=O)O)=O)F | C18H21F2N3O3
